* C:\daniel\tampere_summer\ltspice_design\differential_stage\differential_stage.asc
V1 Vin+ 0 SINE(0.5 0.0 1meg) AC 0.01 0
V2 Vin- 0 SINE(0.5 0 1meg 0 0 180) AC 0.01 180
V3 Vdd 0 1
M1 Vout Vin+ N004 Vdd pmos45bulk l=45n w=1.2u
M2 N005 Vin- N004 Vdd pmos45bulk l=45n w=1.2u
M3 Vout N005 0 0 nmos45bulk l=45n w=120n
M4 N005 N005 0 0 nmos45bulk l=45n w=120n
M5 N001 N001 N002 Vdd pmos45bulk l=45n w=500n
I1 N001 0 50µ
M6 N004 N001 N003 Vdd pmos45bulk l=45n w=500n
M7 N003 N001 Vdd Vdd pmos45bulk l=45n w=500n
M8 N002 N001 Vdd Vdd pmos45bulk l=45n w=500n
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Asus\OneDrive - TUNI.fi\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib ../libs/45nm_bulk.pm
.ac oct 100 10 100G
;tran 5u
.backanno
.end
